US05763489
A suspension of (1,2,3,4-tetrahydro-5-hydroxy-2-naphthyl)methyl N,N-diphenylcarbamate (67 mg), ethyl bromoacetate (33 mg) and potassium carbonate (37 mg) in N,N-dimethylformamide (1.0 ml) was stirred at room temperature for 5.5 hours and then extracted with ethyl acetate. The extract was washed with water and brine (twice), dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed (toluene-ethyl acetate) over silica gel to afford [5-(ethoxycarbonylmethoxy)-1,2,3,4-tetrahydro-2-naphthyl]methyl N,N-diphenylcarbamate (61 mg) as an oil.

reactant | (1,2,3,4-tetrahydro-5-hydroxy-2-naphthyl)methyl N,N-diphenylcarbamate | 67 mg | C1(=CC=CC=C1)N(C(OCC1CC2=CC=CC(=C2CC1)O)=O)C1=CC=CC=C1 | C24H23NO3
reactant | ethyl bromoacetate | 33 mg | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 37 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | [5-(ethoxycarbonylmethoxy)-1,2,3,4-tetrahydro-2-naphthyl]methyl N,N-diphenylcarbamate | 61 mg | C1(=CC=CC=C1)N(C(OCC1CC2=CC=CC(=C2CC1)OCC(=O)OCC)=O)C1=CC=CC=C1 | C28H29NO5
